US07514419B2
To a stirred solution of methyl 3,5-dichloro-4-[3′-(4-fluorobenzoyl)-4′-methoxyphenoxy]benzoate (350 mg, 0.78 mmol) and TFA (2 mL) in CH2Cl2 (50 mL) at room temperature was added triethylsilane (0.5 mL, 3.1 mmol). The reaction mixture was stirred at room temperature for 16 h, quenched with water (25 mL) and extracted with ether (100 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was triturated with hexanes, filtered and dried under reduced pressure to afford methyl 3,5-dichloro-4-[3′-(4-fluorobenzyl)-4′-methoxyphenoxy]benzoate as a brown solid (0.31 g, 92%): mp 108-110° C.; 1H NMR (300 MHz, CDCl3): δ 7.98 (s, 2H), 7.06 (dd, J=6.0, 9.0 Hz, 2H), 6.88 (t, J=8.7 Hz, 2H), 6.70 (d, J=9.0 Hz, 1H), 6.58 (d, J=3.0 Hz, 1H), 6.48 (dd, J=3.3, 9.0 Hz, 1H), 3.89 (s, 3H), 3.83 (s, 2H), 3.71 (s, 3H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (2:8); Rf=0.8.

reactant | methyl 3,5-dichloro-4-[3′-(4-fluorobenzoyl)-4′-methoxyphenoxy]benzoate | 0.78 mmol, 350 mg | ClC=1C=C(C(=O)OC)C=C(C1OC1=CC(=C(C=C1)OC)C(C1=CC=C(C=C1)F)=O)Cl | C22H15Cl2FO5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 3.1 mmol, 0.5 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 3,5-dichloro-4-[3′-(4-fluorobenzyl)-4′-methoxyphenoxy]benzoate | 0.31 g, 92% | ClC=1C=C(C(=O)OC)C=C(C1OC1=CC(=C(C=C1)OC)CC1=CC=C(C=C1)F)Cl | C22H17Cl2FO4
